US08114878B2
3.1.2 4-chloro-2-[4-(4-chloro-phenyl)-piperazin-1-yl]-6,7-dihydro-thieno[3,2-d]pyrimidine
12.95 g 2-[4-(4-chloro-phenyl)-piperazin-1-yl]-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ol and 50.89 ml (546 mmol) phosphorus oxychloride are heated for 4 hours to 120° C. Then the reaction mixture is evaporated down, the residue is mixed with water. The precipitate formed is suction filtered, washed with water and dried. The crude product is stirred with methanol and suction filtered. 11.78 g of the product are obtained as a powder.

reactant | 2-[4-(4-chloro-phenyl)-piperazin-1-yl]-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ol | 12.95 g | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2)O | C16H17ClN4OS
reactant | phosphorus oxychloride | 546 mmol, 50.89 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-[4-(4-chloro-phenyl)-piperazin-1-yl]-6,7-dihydro-thieno[3,2-d]pyrimidine | 11.78 g | ClC=1C2=C(N=C(N1)N1CCN(CC1)C1=CC=C(C=C1)Cl)CCS2 | C16H16Cl2N4S
